US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(trifluoromethyl)-1H-pyrazole-3-carboxamide
The title compound was prepared from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile (0.15 g, 0.546 mmol), 5-trifluoromethyl-1H-pyrazole-3-carboxylic acid (0.108 g, 0.601 mmol), HOBt (0.111 g, 0.819 mmol), DIPEA (0.143 ml, 0.819 mmol) and EDCI (0.157 g, 0.819 mmol) using DCM as solvent using the method of Example 34(d) affording 0.098 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.18 (d, 3H), 2.48 (s, 3H), 4.30 (m, 2H), 4.46 (m, 1H), 6.60 (d, 1H), 7.21 (m, 1H), 7.60 (d, 1H), 7.79 (d, 1H), 7.85 (d, 1H), 8.51 (m, 1H), 14.39 (m, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | 0.546 mmol, 0.15 g | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C)C | C14H15ClN4
reactant | 5-trifluoromethyl-1H-pyrazole-3-carboxylic acid | 0.601 mmol, 0.108 g | FC(C1=CC(=NN1)C(=O)O)(F)F | C5H3F3N2O2
reactant | HOBt | 0.819 mmol, 0.111 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.819 mmol, 0.143 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.819 mmol, 0.157 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(trifluoromethyl)-1H-pyrazole-3-carboxamide | 0.098 g | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NNC(=C1)C(F)(F)F)C | C19H16ClF3N6O
